US07723329B2
7-(2-Azido-ethoxy)-1-(3-chloro-benzyl)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole
A mixture of 1-(3-chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene -1-sulfonyl)-1H-indazole (0.1 g, 0.19 mmoles) and sodium azide (0.014 g, 0.22 mmoles) in DMSO (3 mL) was stirred together in a round bottom flask under nitrogen at 90° C. for 3 hours. Reaction mixture was cooled to room temperature, diluted with water, extracted with EtOAC, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (0.09 g, 0.17 mmoles).

reactant | 1-(3-chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene -1-sulfonyl)-1H-indazole | 0.19 mmoles, 0.1 g | ClC=1C=C(CN2N=C(C3=CC(=CC(=C23)OCCCl)F)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C26H19Cl2FN2O3S
reactant | sodium azide | 0.22 mmoles, 0.014 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-(2-Azido-ethoxy)-1-(3-chloro-benzyl)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole | N(=[N+]=[N-])CCOC=1C=C(C=C2C(=NN(C12)CC1=CC(=CC=C1)Cl)S(=O)(=O)C1=CC=CC2=CC=CC=C12)F | C26H19ClFN5O3S
